US06586447B1
4A. 6-Bromo-1-quinolin-4-ylmethyl-1,3-dihydro-indol-2-one
2-(2-Amino-4-bromo-phenyl)-malonic acid di-tert-butyl ester (1.93 g, 5.0 mmol) and 4-quinolinecarboxaldehyde (890 mg, 5.50 mmol) were dissolved in 20 ml of AcOH under an atmosphere of dry N2. To this solution was added 95% NaHB(OAc)3 (1.45 g, 6.5 mmol) and the solution was stirred for 30 minutes. The reaction mixture was concentrated under vacuum and then stirred in 60 ml of a 1:1 solution of DCM/water. To this mixture was slowly added NaHCO3 until the pH˜8. The DCM layer was then washed with saturated aqueous NaHCO3 and dried over Na2SO4, filtered and concentrated under vacuum to give a golden oil which was subsequently dissolved in a solution of 20 ml of TFA and 2.5 ml of triethylsilane under an atmosphere of dry N2. The mixture was stirred overnight after which time the reaction mixture was concentrated under vacuum and then partitioned between DCM and saturated aqueous NaHCO3. The DCM layer was dried over Na2SO4, filtered and concentrated under vacuum to give a brown solid which, after trituration with Et2O, gives the tilted compound as a white solid.

reactant | 2-(2-Amino-4-bromo-phenyl)-malonic acid di-tert-butyl ester | 5.0 mmol, 1.93 g | C(C)(C)(C)OC(C(C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Br)N)=O | C17H24BrNO4
reactant | 4-quinolinecarboxaldehyde | 5.50 mmol, 890 mg | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | sodium triacetoxyborohydride | 6.5 mmol, 1.45 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Et2O | CCOCC | C4H10O
solvent | AcOH | 20 ml | CC(=O)O | C2H4O2
solvent | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | triethylsilane | 2.5 ml | C(C)[SiH](CC)CC | C6H16Si
product | 6-Bromo-1-quinolin-4-ylmethyl-1,3-dihydro-indol-2-one | BrC1=CC=C2CC(N(C2=C1)CC1=CC=NC2=CC=CC=C12)=O | C18H13BrN2O
